US08084448B2
D. 3-{2-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-ethyl}-benzamide
To a solution of 3-{2-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-vinyl}-benzamide in ethanol (2 mL) is added two equivalents of KHCO3. The mixture is diluted with 5 mL water and hydrogenated at 1 atm over 50 mg of 10% Pd/C for 18 h. The catalyst is filtered and the filtrate lyophilized. The resulting solid is purified by HPLC to give the title compound as an amorphous powder: m/z (M−1)−=374; 1H NMR (DMSO-d6) δ 7.95 (m, 1H), 7.81 (s, 1H), 7.72 (m, 1H), 7.35 (m, 4H), 6.75 (d, J=1.5 Hz 1H), 6.70 (m, 1H), 4.04 (s, 2H), 2.86 (m, 4H).

reactant | 3-{2-[3-benzyloxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-vinyl}-benzamide | C(C1=CC=CC=C1)OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)C=CC=1C=C(C(=O)N)C=CC1 | C24H21N3O5S
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | water | 5 mL | O | H2O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 3-{2-[3-Hydroxy-4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl]-ethyl}-benzamide | OC=1C=C(C=CC1N1S(NC(C1)=O)(=O)=O)CCC=1C=C(C(=O)N)C=CC1 | C17H17N3O5S
